US07585885B2
N-[1(S)-Benzyl-2-hydroxy-2-(4-methyl-3-oxopiperazin-2-yl)-ethyl]-acetamide hydrochloride
Stir overnight at room temperature under a nitrogen atmosphere a solution of acetic acid (25 μl, 0.45), 3-(2-(S)-amino-1-hydroxy-3-phenylpropyl)-1-methylpiperazin-2-one (120 mg, 0.45 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDCI) (112 mg, 0.58 mmol), triethylamine (0.12 mL, 0.9 mmol), dimethylaminopyridine (5.5 mg, 0.04 mmol) and 1-hydroxybenzotriazole hydrate (HOBt) (79 mg, 0.58 mmol) in dichloromethane (10 mL/mmol). Dilute with more dichloromethane and wash with, 5% aqueous sodium bicarbonate solution, saturated aqueous sodium chloride. Dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 9:1 dichloromethane:methanol) to provide a white solid. Suspend the solid in 4 M HCl in 1,4-dioxane and stir for 10 min and concentrate the solution to give the title compound as a white solid (15 mg, 10%).

reactant | 3-(2-(S)-amino-1-hydroxy-3-phenylpropyl)-1-methylpiperazin-2-one | 0.45 mmol, 120 mg | N[C@H](C(O)C1C(N(CCN1)C)=O)CC1=CC=CC=C1 | C14H21N3O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.58 mmol, 112 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 0.9 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 0.04 mmol, 5.5 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 1-hydroxybenzotriazole hydrate | 0.58 mmol, 79 mg | O.ON1N=NC2=C1C=CC=C2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | HCl | 4 M | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | acetic acid | 25 μl | C(C)(=O)O | C2H4O2
product | N-[1(S)-Benzyl-2-hydroxy-2-(4-methyl-3-oxopiperazin-2-yl)-ethyl]-acetamide hydrochloride | 15 mg, 10% | Cl.C(C1=CC=CC=C1)[C@@H](C(C1NCCN(C1=O)C)O)NC(C)=O | InChI=1S/C16H23N3O3.ClH/c1-11(20)18-13(10-12-6-4-3-5-7-12)15(21)14-16(22)19(2)9-8-17-14;/h3-7,13-15,17,21H,8-10H2,1-2H3,(H,18,20);1H/t13-,14?,15?;/m0./s1
